US07968720B2
(2-Chloro-5-vinyl-benzyl)-cyclopropyl-carbamic Acid tert-butyl Ester
To a sol. of (5-bromo-2-chloro-benzyl)-cyclopropyl-carbamic acid tert-butyl ester (105 g, 0.292 mol) in DME (800 mL) under N2 at rt was added Pd(PPh3)4 (16.9 g, 14.6 mmol). The mixture was stirred at rt for 30 min, and K2CO3 (40.7 g, 292 mmol), water (350 mL) and 4,4,5,5-tetramethyl-2-vinyl-[1,3,2]dioxaborolane (52.0 mL, 292 mmol) were added. The mixture was heated to reflux for 3 h. The mixture was allowed to cool to rt, and water (500 mL) was added. The mixture was extracted with Et2O (4×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane/EtOAc 9:1) yielded the title compound (70.9 g, 79%). LC-MS: tR=1.10 min; ES+: 293.38.

reactant | (5-bromo-2-chloro-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 0.292 mol, 105 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)Br)Cl)=O | C15H19BrClNO2
reactant | K2CO3 | 292 mmol, 40.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 350 mL | O | H2O
reactant | 4,4,5,5-tetramethyl-2-vinyl-[1,3,2]dioxaborolane | 292 mmol, 52.0 mL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | water | 500 mL | O | H2O
solvent | DME | 800 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 14.6 mmol, 16.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Chloro-5-vinyl-benzyl)-cyclopropyl-carbamic Acid tert-butyl Ester | 70.9 g, 79% | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)C=C)Cl)=O | C17H22ClNO2
